US04446151
(C) 1-Fluoro-2-phthalimido-4-methylene-5-bromo-pentane
A mixture of 1-fluoro-2-phthalimido-4-methyl-4-pentene (28.3 g, 115 mmoles) prepared as in step B above, N-bromosuccinimide (20.4 g, 115 mmoles), carbontetrachloride (300 mL), and a few mgs of benzoyl peroxide is heated under strong reflux (325 W lamp) during 7.5 hours. After cooling and filtration, the solution is washed with water (100 mL, 3 times), dried over magnesium sulfate and concentrated. The oily residue (quantitative), consisting mainly of the title compound plus some 1-fluoro-2-phthalimido-4-methyl-5-bromo-3-pentene, is used for the next step without further purification.

reactant | 1-fluoro-2-phthalimido-4-methyl-4-pentene | 115 mmoles, 28.3 g | FCC(CC(=C)C)N1C(C=2C(C1=O)=CC=CC2)=O | C14H14FNO2
reactant | N-bromosuccinimide | 115 mmoles, 20.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbontetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Fluoro-2-phthalimido-4-methylene-5-bromo-pentane | FCC(CC(CBr)=C)N1C(C=2C(C1=O)=CC=CC2)=O | C14H13BrFNO2
